US04446323
5-[(2,6-dimethoxyphenyl)methyl]-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one
To a stirred solution of 6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (2.7 g. 0.01 mole) in 30 ml. of dry dimethyl formamide was added sodium hydride (0.5 g., 0.02 mole of 50% dispersion in mineral oil). When the evolution of hydrogen subsides, 2.7 g. (0.01 mole) of 2,6-dimethoxybenzyl chloride was added. The reaction mixture was stirred at room temperature for eighteen hours, and the dimethyl formamide was removed under vacuo. The residue was triturated with cold water, filtered and recrystallized from ethanol to give white crystals of the title compound, 2.7 g. (89% yield) m.p. 200°-202° C.; hydrochloride salt, m.p. 220°-223° C.

reactant | 6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.01 mole, 2.7 g | N1=CC=CC=2NC(C3N(C21)CCC3)=O | C10H11N3O
reactant | sodium hydride | 0.02 mole, 0.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2,6-dimethoxybenzyl chloride | 0.01 mole | COC1=C(CCl)C(=CC=C1)OC | C9H11ClO2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 5-[(2,6-dimethoxyphenyl)methyl]-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 89% yield | COC1=C(C(=CC=C1)OC)CN1C(C2N(C3=C1C=CC=N3)CCC2)=O | C19H21N3O3
